US20010006969A1
To 367 mg (1.77 mmol) of 6-nitroquinazoline-2,4 (1H,3H)-dione was added 15.13 g (98.70 mmol) of phosphorus oxychloride to effect reaction in the same manner as in Example 10. Next, to the reaction mixture was added dropwise 301 mg (3.54 mmol) of piperidine under ice cooling, and the resulting mixture was stirred under ice cooling for 2 hours. Water was added to the reaction mixture, and crystals thus precipitated were filtered out to obtain 2-chloro-6-nitro-4-piperidinoquinazoline. The compound was dissolved in 1 ml of DMF, and after 1.52 g (26.65 mmol) of allylamine was added to the resulting solution, the resulting mixture was stirred at room temperature for 2.5 hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate, washing with brine and drying over anhydrous sodium sulfate. After the solvent was distilled off, the residue was purified by a silica gel column to give 213 mg (yield: 38.4%) of the title compound.

reactant | 6-nitroquinazoline-2,4 (1H,3H)-dione | 1.77 mmol, 367 mg | [N+](=O)([O-])C=1C=C2C(NC(NC2=CC1)=O)=O | C8H5N3O4
reactant | phosphorus oxychloride | 98.70 mmol, 15.13 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | piperidine | 3.54 mmol, 301 mg | N1CCCCC1 | C5H11N
solvent | Water | O | H2O
product | 2-chloro-6-nitro-4-piperidinoquinazoline | ClC1=NC2=CC=C(C=C2C(=N1)N1CCCCC1)[N+](=O)[O-] | C13H13ClN4O2
